US05403847
N-(2-Furoyl)piperazine
This compound and its preparation has been described in Great Britain Patents 1,390,014 and 1,390,015. Piperazine hexahydrate (194 g, 1 mole) was dissolved in 250 ml H2O. The solution was acidified to pH 4.5 with 6N HCl. Furoyl chloride (130.5 g, 1 mole, Aldrich) was added along with 10% NaOH solution at such a rate that the pH was maintained at 4.5. After 1 hour, the solution was made basic (pH=8.5) with NaOH solution. The reaction mixture was continuously extracted with chloroform for 36 hours. The CHCl3 extract was dried over MgSO4, and filtered. Distillation gave 108.2 g product (60%), b.p. 132°-138° C./0.6 mm Hg, m.p. 69°-70 ° C.

reactant | Piperazine hexahydrate | 1 mole, 194 g | O.O.O.O.O.O.N1CCNCC1
reactant | HCl | 6N | Cl | ClH
reactant | Furoyl chloride | 1 mole, 130.5 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 250 ml | O | H2O
product | N-(2-Furoyl)piperazine | 108.2 g, 60% | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
